US06353010B1
2-Acetyl-4-methoxybenzoxazole
A solution of oxalyl chloride (0.25 ml) in dichloromethane (6.5 ml) was cooled to −55° C. under nitrogen. A solution of dimethylsulphoxide (0.44 ml) in dichloromethane (1.3 ml) was added dropwise, and the mixture stirred for 5 minutes at −55° C. before addition of a solution of 2-(1-hydroxyethyl)-4-methoxybenzoxazole (0.5 g) in dichloromethane (2.5 ml). Stirring was continued for 15 minutes at −55° C., then triethylamine (1.8 ml) was added. The mixture was stirred at −55° C. for 5 minutes and was then allowed to warm to room temperature. It was poured into water (25 ml) and the layers separated. The aqueous phase was extracted with dichloromethane (20 ml). The combined organic phases were dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with 30% ethyl acetate in hexane to yield the title compound as a white solid (350 mg).

reactant | oxalyl chloride | 0.25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 0.44 ml | CS(=O)C | C2H6OS
reactant | 2-(1-hydroxyethyl)-4-methoxybenzoxazole | 0.5 g | OC(C)C=1OC2=C(N1)C(=CC=C2)OC | C10H11NO3
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 2-Acetyl-4-methoxybenzoxazole | 350 mg | C(C)(=O)C=1OC2=C(N1)C(=CC=C2)OC | C10H9NO3
